US04810719
(b) N-(4-Methoxyphenyl)-1-phenyl-1H-pyrazol-3-amine
4,5-Dihydro-N-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-3amine (50 g) was dissolved in dichloromethane (500 ml) and treated portionwise with activated manganese dioxide (50 g) over one hour. The mixture was stirred for a further 2 hours then filtered through bentonite and chromatographed on a silica column with dichloromethane as eluant. The eluants were evaporated to dryness and the title compound recrystallised from aqueous ethanol as an off-white solid (40 g), mp 96°-98°.

reactant | 4,5-Dihydro-N-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-3amine | 50 g | COC1=CC=C(C=C1)NC1=NN(CC1)C1=CC=CC=C1 | C16H17N3O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 50 g | [O-2].[O-2].[Mn+4]
product | N-(4-Methoxyphenyl)-1-phenyl-1H-pyrazol-3-amine | COC1=CC=C(C=C1)NC1=NN(C=C1)C1=CC=CC=C1 | C16H15N3O
